US03931235
3-(1-Adamantylthio)-4-hydroxy-6-methyl-2-pyrone
Ice (22 g.) was slowly added to 90 g. of concd. sulfuric acid with stirring, keeping the temperature below 35°C. by means of an ice-salt bath. 1-Adamantanol (18.2 g., 0.120 mole) was added followed by the slow addition of 15.8 g. (0.100 mole) of 4-hydroxy-3-mercapto-6-methyl-2-pyrone, keeping the temperature of the reaction mixture between 0° and 5°C. The ice bath was then removed from the reaction vessel, and the reaction mixture was warmed to 30°-40°C. with vigorous stirring for 1.5 hours. The mixture was then poured into ice water and allowed to stand for about 15 hours. The crude, solid product was collected on a filter, dried in vacuo over calcium chloride and recrystallized from ethanol (Darco) to give 8.3 g. (28 percent) of colorless needles, m.p. 175.5°-176.5°C. A second recrystallization from ethanol gave the pure product as colorless needles, m.p. 176°-177°C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 1-Adamantanol | 0.120 mole, 18.2 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | 4-hydroxy-3-mercapto-6-methyl-2-pyrone | 0.100 mole | OC1=C(C(OC(=C1)C)=O)S | C6H6O3S
product | 3-(1-Adamantylthio)-4-hydroxy-6-methyl-2-pyrone | C12(CC3CC(CC(C1)C3)C2)SC=2C(OC(=CC2O)C)=O | C16H20O3S
